US07109201B2
Methyl 4-(6-acetamido-2-methylpyridin-3-yl)benzoate (D7)
A stirred solution of methyl 4-(6-amino-2-methylpyridin-3-yl)benzoate (Description 7 in EP 97/17351, 300 mg, 1.2 mmole) and pyridine (0.16 ml, 2.0 mmole) in DCM (35 ml) at 0° C. under argon was treated with acetyl chloride (120 mg, 1.5 mmole) and allowed to warm to room temperature over 1 h. Additional acetyl chloride (120 mg) was added, the mixture maintained at room temperature for a further 1 h, then washed with 10% Na2CO3 solution, dried (Na2SO4) and concentrated under vacuum to afford the title compound as a white solid (344 mg, 98%).

reactant | methyl 4-(6-amino-2-methylpyridin-3-yl)benzoate | 1.2 mmole, 300 mg | NC1=CC=C(C(=N1)C)C1=CC=C(C(=O)OC)C=C1 | C14H14N2O2
reactant | pyridine | 2.0 mmole, 0.16 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 1.5 mmole, 120 mg | C(C)(=O)Cl | C2H3ClO
reactant | acetyl chloride | 120 mg | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 35 ml | C(Cl)Cl | CH2Cl2
product | Methyl 4-(6-acetamido-2-methylpyridin-3-yl)benzoate | 344 mg, 98% | C(C)(=O)NC1=CC=C(C(=N1)C)C1=CC=C(C(=O)OC)C=C1 | C16H16N2O3
